US06800648B2
[2-Oxo-2,3,7,8-tetrahydro[4,1]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl 4-methylbenzenesulfonate
1,1′-Carbonyldiimidazole (6.45 g, 39.6 mmole) was added to a solution of {(2R)-8-hydroxy-7-[(methoxycarbonyl)amino]-2,3-dihydro-1,4-benzodioxin-2-yl}-methyl 4-methylbenzenesulfonate (5.40 g, 13.2 mmole) in methylene chloride (400 mL), the solution was refluxed for 4 hours under nitrogen. The solvent was then removed in vacuum and was replaced with 2N aqueous HCl (150 mL). After the mixture had been stirred for 0.5 hour at room temperature, a white solid precipitate, the (R)-enantiomer of the title compound, was removed by filtration, and was dried under high vacuum (5.0 g, >99%).

reactant | 1,1′-Carbonyldiimidazole | 39.6 mmole, 6.45 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | {(2R)-8-hydroxy-7-[(methoxycarbonyl)amino]-2,3-dihydro-1,4-benzodioxin-2-yl}-methyl 4-methylbenzenesulfonate | 13.2 mmole, 5.40 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)NC(=O)OC)O | C18H19NO8S
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | [2-Oxo-2,3,7,8-tetrahydro[4,1]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C=CC=3NC(OC32)=O)OC1 | C17H15NO7S
